US07576064B2
1-Isopropyl-4-(4-methoxybenzyl)-5-phenoxy-1,2-dihydro-3H-pyrazol-3-one
Sodium borohydride (10 mg) was suspended in tetrahydrofuran (1 mL) and to the stirred suspension was added dropwise a solution of 3-benzyloxy-1-isopropyl-4-(4-methoxybenzoyl)-5-phenoxy-1H-pyrazole (24 mg) in tetrahydrofuran (4 mL) under ice cooling. The mixture was stirred at room temperature for 3 hours and 1 mL of 10% citric acid aqueous solution was added dropwise to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with a saturated sodium hydrogen carbonate and brine. After the solution was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure and the obtained residue was dissolved in ethanol (5 mL). To the stirred solution was added 10% palladium carbon powder under ice cooling and the suspension was stirred at room temperature for 6 hours under hydrogen atmosphere at normal pressure. Insoluble material was removed by filtration and the solvent of filtrate was removed under reduced pressure to give the title compound (10 mg).

reactant | Sodium borohydride | 10 mg | [BH4-].[Na+]
reactant | 3-benzyloxy-1-isopropyl-4-(4-methoxybenzoyl)-5-phenoxy-1H-pyrazole | 24 mg | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)=O)OC1=CC=CC=C1)C(C)C | C27H26N2O4
reactant | citric acid | 1 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-Isopropyl-4-(4-methoxybenzyl)-5-phenoxy-1,2-dihydro-3H-pyrazol-3-one | 10 mg | C(C)(C)N1NC(C(=C1OC1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O | C20H22N2O3
